US06919331B2
The procedure for the preparation of [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester was followed starting from 2,2-dimethyl-propionic acid 4-[5-(tert-butoxycarbonylamino-methyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-benzoimidazol-1-yl]-butyl ester (280 mg, 0.474 mmol). After neutralization more water was added and the resulting white precipitate collected by filtration, which was washed with water (thrice) and diethyl ether (thrice) to yield 204 mg (85%) of [1-(4-hydroxy-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester as a white solid:

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCCCO)C=C1)=O | C29H35N5O5
reactant | 2,2-dimethyl-propionic acid 4-[5-(tert-butoxycarbonylamino-methyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-benzoimidazol-1-yl]-butyl ester | 0.474 mmol, 280 mg | C(C)(C)(C)OC(=O)NCC1=CC2=C(N(C(=N2)CN2C(C=C(C3=CC=CC=C23)OC)=O)CCCCOC(C(C)(C)C)=O)C=C1 | C33H42N4O6
solvent | water | O | H2O
product | [1-(4-hydroxy-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 204 mg, 85% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(C=C(C3=CC=CC=C23)OC)=O)CCCCO)C=C1)=O | C28H34N4O5
